US05198446
Preparation of N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}-1,2,4-triazole hydrochloride
After adding 10 g of 1,2,4-triazole to 10.8 g of chloromethyl-dimethyl-(4-fluorobenzyl)silane dissolved in 50 ml of xylene, the reaction mixture is refluxed for 8 hours, then 200 ml of water are added and the phases are separated. The organic phase is washed 3 times with a total of 150 ml of water, dried over anhydrous magnesium sulfate and after filtration the filtrate is evaporated to solvent-free. The pale yellow oily residue is dissolved in 70 ml of methyl propyl ketone, the solution is acidified to pH 4.5 by adding methanolic hydrogen chloride solution and then concentrated to a volume of 40 ml by distillation under atmospheric pressure. The crystals precipitated are filtered at 0° C. to give the named product in a yield of 6.56 g (46%), m.p.: 113°-114° C.

reactant | 1,2,4-triazole | 10 g | N1N=CN=C1 | C2H3N3
reactant | chloromethyl-dimethyl-(4-fluorobenzyl)silane | 10.8 g | ClC[Si](CC1=CC=C(C=C1)F)(C)C | C10H14ClFSi
reactant | water | 200 ml | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}-1,2,4-triazole hydrochloride | Cl.C[Si](CC1=CC=C(C=C1)F)(C)CN1N=CN=C1 | InChI=1S/C12H16FN3Si.ClH/c1-17(2,10-16-9-14-8-15-16)7-11-3-5-12(13)6-4-11;/h3-6,8-9H,7,10H2,1-2H3;1H
